US06509331B1
Synthesis of N-(Cyclopropylacetyl)-L-alanine
Following General Procedure A above using cyclopropylacetic acid (Aldrich) and L-alanine methyl ester hydrochloride (Sigma), the title compound was prepared as an oil. The reaction was monitored by tic on silica gel (Rf=0.15 in 25% ethyl acetate/hexanes) and purification was by flash column chromatography using 25% ethyl acetate/hexanes as the eluant.

reactant | cyclopropylacetic acid | C1(CC1)CC(=O)O | C5H8O2
reactant | L-alanine methyl ester hydrochloride | Cl.COC([C@@H](N)C)=O
product | N-(Cyclopropylacetyl)-L-alanine | C1(CC1)CC(=O)N[C@@H](C)C(=O)O | C8H13NO3
